US07189851B2
Ethyl(9aS)-4-{4-[(2,3-dihydro-1H-inden-1-ylamino)carbonyl]-2-thieny}-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate
5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-thiophenecarboxylic acid (0.100 g, 0.202 mmol) was dissolved in CH2Cl2. 1-aminoindane (0.039 mL, 0.328 mmol) was added followed by EDCI (0.047 g, 0.243 mmol) and HOBt (0.033 g, 0.243 mmol). After 14 h of stirring at ambient temperature the reaction mixture was poured onto 5% HCl solution and extracted with CH2Cl2. The organics were washed with sat'd NaHCO3, brine and then dried (Na2SO4), filtered and concentrated to a brown residue. Chromatography on silica gel using 3:1 EtOAc:Hexanes eluted the product to provide the title compound upon concentration as a white solid (0.085 g, 0.139 mmol, 69% yield): 1H NMR (CDCl3, 400 MHz) δ 8.08 (s, 1H), 7.46 (s, 1H), 7.35–7.31 (m, 1H), 7.28–7.20 (m, 3H), 7.16 (dd, J=8.5, 5.5 Hz, 2H), 6.97 (t, 2H), 6.17 (m, 1H), 5.67 (dd, J=15.5, 7.8 Hz, 1H), 4.69 (dd, J=10.4, 6.2 Hz, 1H), 4.19 (dd, J=14.3, 7.0 Hz, 2H), 3.76–3.69 (m, 1H), 3.42–3.36 (m, 1H), 3.19–2.99 (m, 5H), 2.96–2.87 (m, 1H), 2.74–2.64 (m, 1H), 2.51–2.43 (m, 1H), 2.39–2.27 (m, 2H), 1.96–1.86 (m, 1H), 1.41–1.34 (m, 1H), 1.09 (t, 7.0 Hz); ESMS m/z 610 (M+H)+, 608 (M−H)+; Anal. Calcd. For C35H32FN3O4S.½H2O: C, 68.44; H, 5.33; N, 6.84; found: C, 68.42; H, 5.50; N, 6.78.

reactant | 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-thiophenecarboxylic acid | 0.202 mmol, 0.100 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC1=CC=C(C=C1)F)C1=CC(=CS1)C(=O)O | C26H23FN2O5S
reactant | 1-aminoindane | 0.328 mmol, 0.039 mL | NC1CCC2=CC=CC=C12 | C9H11N
reactant | EDCI | 0.243 mmol, 0.047 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.243 mmol, 0.033 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl(9aS)-4-{4-[(2,3-dihydro-1H-inden-1-ylamino)carbonyl]-2-thieny}-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | C1(CCC2=CC=CC=C12)NC(=O)C=1C=C(SC1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)F)C(=O)OCC | C35H32FN3O4S
